US07700655B2
(3) N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-(pyridin-2-yl)benzamide (Compound No. 76)
Methanol (3 ml) and concentrated hydrochloric acid (0.5 ml) were added to N-[3,5-bis(trifluoromethyl)phenyl]-2-methoxymethoxy-5-(pyridin-2-yl)benzamide (37.9 mg, 0.08 mmol), and the mixture was refluxed for 2 hours. After cooling, the reaction mixture was poured into saturated aqueous sodium hydrogen carbonate and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation under reduced pressure was purified by chromatography on silica gel (n-hexane:ethyl acetate=2:1) to give the title compound (16.2 mg, 47.2%) as a white powder.

reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | N-[3,5-bis(trifluoromethyl)phenyl]-2-methoxymethoxy-5-(pyridin-2-yl)benzamide | 0.08 mmol, 37.9 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)C1=NC=CC=C1)OCOC)=O)(F)F | C22H16F6N2O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | Methanol | 3 ml | CO | CH4O
product | N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-(pyridin-2-yl)benzamide | 16.2 mg, 47.2% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)C1=NC=CC=C1)O)=O)(F)F | C20H12F6N2O2
